US07601737B2
To a solution of 4-chloro-2-hydroxymethyl-3,5-dimethylpyridine (60.7 g, 354 mmol) and DMF (0.25 mL, 3.54 mmol) in toluene (200 mL) was added thionyl chloride (26.9 mL, 371 mmol) over 2 h at 15-30° C. After stirring for 2 more h at ambient temperature, ethanol (6 mL) was added to the thick slurry. The solids were filtered off at about 10° C., washed with toluene (80 mL) and dried at 40° C. in vacuo to give 4-chloro-2-chloromethyl-3,5-dimethylpyridinium chloride as an off-white solid (m. p. 195-196° C.); yield 66.5 g (84%).

reactant | 4-chloro-2-hydroxymethyl-3,5-dimethylpyridine | 354 mmol, 60.7 g | ClC1=C(C(=NC=C1C)CO)C | C8H10ClNO
reactant | DMF | 3.54 mmol, 0.25 mL | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 371 mmol, 26.9 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 6 mL | C(C)O | C2H6O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-2-chloromethyl-3,5-dimethylpyridinium chloride | [Cl-].ClC1=C(C(=[NH+]C=C1C)CCl)C | InChI=1S/C8H9Cl2N.ClH/c1-5-4-11-7(3-9)6(2)8(5)10;/h4H,3H2,1-2H3;1H
